US05658913
Preparation of 2 -(2-propenylthio)pyrazine
0.58 g of allyl alcohol was dissolved in 50 ml of dichloromethan and 2.89 g of triphenylphosphine and 1.96 g of N-bromosuccinimide were added thereto. The mixture was stirred at room temperature for 30 minutes, and 5 ml of dimethylformamide solution in which 1.0 g of 2-mercaptopyrazine and 1 ml of triethylamine were dissolved was added to the above solution. The resulting mixture was stirred at room temperature for 1 hour and poured into 100 ml of water. The organic layer was separated and concentrated to dryness. The residues were purified by silica gel chromatography using ethyl acetate:n-hexane=1:1 as an eluate to give 0.6 g of titled compound.

reactant | allyl alcohol | 0.58 g | C(C=C)O | C3H6O
reactant | triphenylphosphine | 2.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 1.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 2-mercaptopyrazine | 1.0 g | SC1=NC=CN=C1 | C4H4N2S
solvent | dichloromethan | 50 ml | ClCCl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | water | 100 ml | O | H2O
product | 2 -(2-propenylthio)pyrazine | 0.6 g | C(C=C)SC1=NC=CN=C1 | C7H8N2S
